US04235736
Synthesis of p-hexyl biphenyl-3-cyano-4-heptyl benzoate
2.65 g (5.10-3 moles) of p-hexyl biphenyl-3-bromo-4-heptyl benzoate and 0.6 g (6.7×10-3 moles) of cuprous cyanide are introduced into 10 ml of dimethyl formamide. After the solution has been heated under reflux for 7.5 hours, it is cooled and poured into a mixture of 60 ml of deionized water and 5.5 ml of ethylene diamine. After stirring, the solution is extracted with ether. 2.2 g of crude product are obtained, being purified by chromatography on a column of silica, followed by recrystallization from ethanol. 1.6 g of pure product are obtained, corresponding to a yield of 66%.

reactant | p-hexyl biphenyl 3-bromo-4-heptyl benzoate | 5.10-3 moles, 2.65 g | C(CCCCC)C1=CC=C(C=C1)C1=CC=CC=C1.C(C1=CC=CC=C1)(=O)OC(C(CC)Br)CCC
reactant | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
reactant | ethylene diamine | 5.5 ml | C(CN)N | C2H8N2
solvent | water | 60 ml | O | H2O
product | p-hexyl biphenyl 3-cyano-4-heptyl benzoate | 1.6 g, yield of 66% | C(CCCCC)C1=CC=C(C=C1)C1=CC=CC=C1.C(C1=CC=CC=C1)(=O)OC(C(CC)C#N)CCC | InChI=1S/C18H22.C15H19NO2/c1-2-3-4-6-9-16-12-14-18(15-13-16)17-10-7-5-8-11-17;1-3-8-14(12(4-2)11-16)18-15(17)13-9-6-5-7-10-13/h5,7-8,10-15H,2-4,6,9H2,1H3;5-7,9-10,12,14H,3-4,8H2,1-2H3
